US05340810
4-(4-Bromo-3-methylphenyl)-1,2,3-thiadiazole
A mixture of 1-(4-bromo-3-methylphenyl)ethanone (500 mg) and 4-methylbenzenesulphonic acid hydrazide (437 mg) was heated to reflux in ethanol (15 ml) containing a few 4A molecular sieves for 5 h. On cooling, colourless needles were formed, which were collected by filtration (577 mg). 300 mg of this intermediate hydrazone were dissolved in thionyl chloride (2 ml) and was stirred at 20° for 5 h. The mixture was neutralised with 2N sodium carbonate (40 ml) and extracted with ethyl acetate (2×30 ml). The dried extracts were then evaporated to give a yellow solid. This material was chromatographed on silica eluting with dichloromethane;hexane (1:1) to give the title compound as pale yellow solid (167 mg).

reactant | 1-(4-bromo-3-methylphenyl)ethanone | 500 mg | BrC1=C(C=C(C=C1)C(C)=O)C | C9H9BrO
reactant | 4-methylbenzenesulphonic acid hydrazide | 437 mg | CC1=CC=C(C=C1)S(=O)(=O)NN | C7H10N2O2S
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-(4-Bromo-3-methylphenyl)-1,2,3-thiadiazole | 167 mg | BrC1=C(C=C(C=C1)C=1N=NSC1)C | C9H7BrN2S
